US07067517B2
4-(1-Ethylpropyl)piperazine-1-carboxylic acid 4-methoxycarbonylphenyl ester hydrochloride salt
To a stirred mixture of 1-(1-ethylpropyl)piperazine (350 μl, 2.0 mmol) and dry DCM (15 ml) was added 4-methoxycarbonylphenyl chloroformate (430 mg, 2.0 mmol). The mixture was stirred overnight at room temperature and then diluted with DCM (50 ml). The reaction mixture was washed with 1 N NaOH (3×25 ml) and water (2×25 ml). The organic solution was concentrated and re-evaporated twice with acetonitrile. The residue was dissolved in a 0.5 N HCl solution (15 ml) and a small portion of acetonitrile. The acidic solution was concentrated and stirred with ethyl acetate (15 ml). The solid was isolated and dried to give 670 mg (90%) of the title compound as a solid.

reactant | 1-(1-ethylpropyl)piperazine | 2.0 mmol, 350 μl | C(C)C(CC)N1CCNCC1 | C9H20N2
reactant | 4-methoxycarbonylphenyl chloroformate | 2.0 mmol, 430 mg | ClC(=O)OC1=CC=C(C=C1)C(=O)OC | C9H7ClO4
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-Ethylpropyl)piperazine-1-carboxylic acid 4-methoxycarbonylphenyl ester hydrochloride salt | 670 mg, 90% | Cl.COC(=O)C1=CC=C(C=C1)OC(=O)N1CCN(CC1)C(CC)CC | InChI=1S/C18H26N2O4.ClH/c1-4-15(5-2)19-10-12-20(13-11-19)18(22)24-16-8-6-14(7-9-16)17(21)23-3;/h6-9,15H,4-5,10-13H2,1-3H3;1H
